US06500971B2
In a nitrogen atmosphere, a solution of 112 g of potassium tert-butoxide in 400 g of dry tetrahydrofuran was added dropwise over 2 hours to a mixture of 122 g of 5-norbornene-2-carbaldehyde, 151 g of tert-butyl chloroacetate, and 500 g of dry tetrahydrofuran at 0-5° C. After one hour of stirring, 400 g of water was added to stop the reaction. The organic layer obtained by hexane extraction was washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification by vacuum distillation yielded 224 g (yield 95%) of tert-butyl 2,3-epoxy-3-(5-norbornen-2-yl)propionate as a fraction having a boiling point of 92-94° C./53 Pa.

reactant | potassium tert-butoxide | 112 g | CC(C)([O-])C.[K+]
reactant | 5-norbornene-2-carbaldehyde | 122 g | C12C(CC(C=C1)C2)C=O | C8H10O
reactant | tert-butyl chloroacetate | 151 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | water | 400 g | O | H2O
solvent | tetrahydrofuran | 400 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | tert-butyl 2,3-epoxy-3-(5-norbornen-2-yl)propionate | 224 g, yield 95% | O1C(C(=O)OC(C)(C)C)C1C1C2C=CC(C1)C2 | C14H20O3
